US05250505
Preparation Method for 2-[1-(4-(4-Fluorophenyl)-but-3-ynyloximino)-butyl]-3-hydroxy-5-tetrahydropyran-4-ylcyclohex -2enone (Example 3.20)
2.7 g (15 mmol) of 4-(4-fluorophenyl)-but-3-ynoxyamine were added to a solution of 4 g (15 mmol) of 2-butyryl-3-hydroxy-5-tetrahydropyran-4-ylcyclohex-2-enone in 60 ml of dry methanol. After the mixture had been stirred for 16 hours at room temperature, the methanol was removed under reduced pressure from a water pump. The crude product was purified by chromatography over silica gel (eluent: methylene chloride). Yield: 5.2 g (81.2%).

reactant | 4-(4-fluorophenyl)-but-3-ynoxyamine | 15 mmol, 2.7 g | FC1=CC=C(C=C1)C#CCCON | C10H10FNO
reactant | 2-butyryl-3-hydroxy-5-tetrahydropyran-4-ylcyclohex-2-enone | 15 mmol, 4 g | C(CCC)(=O)C=1C(CC(CC1O)C1CCOCC1)=O | C15H22O4
solvent | methanol | 60 ml | CO | CH4O
product | 2-[1-(4-(4-Fluorophenyl)-but-3-ynyloximino)-butyl]-3-hydroxy-5-tetrahydropyran-4-ylcyclohex -2enone | FC1=CC=C(C=C1)C#CCCON=C(CCC)C=1C(CC(CC1O)C1CCOCC1)=O | C25H30FNO4
